data/rdb19/train.csv
rxn,smiles,ea
3170,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39],29.552892713691108
5595,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:1](=[C:2]([N:3]([C:4]([O:5][C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])[H:10])[H:9])[H:8])([H:6])[H:7],26.852512879122514
1150,[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10].[N:14]([C:15](=[O:16])[C:17]=[C:18]([H:22])[H:23])([H:19])[H:20],28.455385259410832
2814,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[H:32])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])[N:24]([C:25](=[O:26])[H:37])[H:36])([H:30])[H:31])([H:27])([H:28])[H:29],21.84277071483666
4928,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][C:15]([C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24],30.19159310683608
2432,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:13]([O:12][C:10]([C:9]([C:8]([H:16])([H:17])[H:18])([H:19])[H:20])([C:11]([H:22])([H:23])[H:24])[H:21])([O:14])[C:15]([H:25])([H:26])[H:27],52.69428280141437
5287,[C:1]([C:2]([C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:38])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26]=[O:27])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30],22.88999379024608
3181,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([C:24]([H:25])[H:26])[C:27](=[O:28])[O:29][H:36])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][C:24]([C:22]([C:21]([H:30])([H:31])[H:32])([C:23]([H:33])([H:34])[H:35])[C:27](=[O:28])[O:29][H:36])([H:25])[H:26],22.70542802591808
3197,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([O:22][C:23]([C:24]([H:32])([H:33])[H:34])([C:25]([H:26])[H:27])[H:31])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][C:25]([C:23]([O:22][C:21]([H:28])([H:29])[H:30])([C:24]([H:32])([H:33])[H:34])[H:31])([H:26])[H:27],23.270786024455447
2977,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],55.72852547245566
